US05134231
(2SR,3SR,4RS,5RS)-Tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylic acid (100 mg) was dissolved in acetic acid (20 ml), and palladium hydroxidecarbon (prepared by the method as described in J.Am.Chem. Soc., 83, p.4798 (1961)) (20 mg) was added thereto. The resultant mixture was stirred at room temperature under hydrogen pressure of 3-4 kg/cm2 until the designed amount of hydrogen was consumed. The catalyst was collected by filtration and washed with water. The washing and the filtrate were combined together and concentrated at 40° C. under reduced pressure to give (2SR,3SR,4RS,5RS)-tetrahydro2,5-dimethyl-6-oxo-4-amino-2H-pyrane-3-carboxylic acid.

reactant | (2SR,3SR,4RS,5RS)-Tetrahydro-2,5-dimethyl-6-oxo-4-benzylamino-2H-pyrane-3-carboxylic acid | 100 mg | CC1OC(C(C(C1C(=O)O)NCC1=CC=CC=C1)C)=O | C15H19NO4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | [Pd] | Pd
product | (2SR,3SR,4RS,5RS)-tetrahydro2,5-dimethyl-6-oxo-4-amino-2H-pyrane-3-carboxylic acid | CC1OC(C(C(C1C(=O)O)N)C)=O | C8H13NO4
